US07288624B2
I. N-(N-Acetyl-tyrosinyl-valinyl-(4-phenoxyprolinyl))-3-amino-4-oxobutanoic acid.
N-Acetyl-tyrosinyl-valine (0.524 g, 1.63 mmol) and 4-phenoxyproline methyl ester (0.381 g, 1.48 mmol) were dissolved in 4 ml each of dimethylformamide and dichloromethane and cooled to 0° C. To the cooled solution was added diisopropylethylamine (258 ul, 1.86 mmol), HOBT (0.24 g, 1.78 mmol), and EDC (0.37 g, 1.92 mmol) and the reaction was stirred for 18 hrs. The mixture was diluted with 400 ml of ethyl acetate and washed with water, 10% sodium hydrogen sulfate, 10% sodium bicarbonate, and water. The organic layer was concentrated to give a residue that was purified by flash chromatography (SiO2) eluting with 94:6:1 (CH2Cl2:i-PrOH:Pyridine) to afford 360 mg of the title compound.

reactant | N-Acetyl-tyrosinyl-valine | 1.63 mmol, 0.524 g | C(C)(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](C(C)C)C(=O)O | C16H22N2O5
reactant | 4-phenoxyproline methyl ester | 1.48 mmol, 0.381 g | COC([C@H]1NCC(C1)OC1=CC=CC=C1)=O | C12H15NO3
reactant | diisopropylethylamine | 1.86 mmol, 258 ul | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | 1.78 mmol, 0.24 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.92 mmol, 0.37 g
reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(N-Acetyl-tyrosinyl-valinyl-(4-phenoxyprolinyl))-3-amino-4-oxobutanoic acid | 360 mg | C(C)(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)NC(CC(=O)O)C=O)CC(C1)OC1=CC=CC=C1 | C31H38N4O9
